US04418077
A solution of ethyl 2,4-difluoro-3-benzylamino-butanoate prepared as in Step B (1.240 g, 4.8 mM) in 1 N hydrochloric acid (30 ml) is heated at 100° C. for 4 hours. The solvent is removed in vacuo. The crude product is taken off several times in isopropanol and the alcohol evaporated evaporated in vacuo. 2,4-Difluoro 3-benzylamino-butanoic acid, hydrochloride is obtained as a white solid, recrystallized from ethanol/ether: 1.010 g (yield about 80%).

reactant | ethyl 2,4-difluoro-3-benzylamino-butanoate | FC(C(=O)OCC)C(CF)NCC1=CC=CC=C1 | C13H17F2NO2
reactant | hydrochloric acid | 1 N, 30 ml | Cl | ClH
product | 2,4-Difluoro 3-benzylamino-butanoic acid, hydrochloride | yield about 80% | Cl.FC(C(=O)O)C(CF)NCC1=CC=CC=C1 | InChI=1S/C11H13F2NO2.ClH/c12-6-9(10(13)11(15)16)14-7-8-4-2-1-3-5-8;/h1-5,9-10,14H,6-7H2,(H,15,16);1H
